US06596772B1
A mixture of methyl 3,5-dihydroxybenzoate (100 mg, 0.595 mmol), 4-(trifluoromethylsulfonyl)chlorobenzene (291 mg, 1.189 mmol) and potassium carbonate (330 mg, 2.379 mmol) was heated in DMF to give 3,5-bis-(4-trifluoromethanesulfonyl-phenoxy)-benzoic acid methyl ester. It was then hydrolysed with potassium hydroxide (25 mg) in THF (10 mL) and water (10 mL) to give the title compound. 1H NMR (300 MHz, DMSO-d6) δ 8.11 (d, J=9.2 Hz, 4H), 7.57 (d, J=2.11 Hz, 2H), 7.39 (d, J=9.2 Hz, 4H), 7.39 (m, 1H).

reactant | methyl 3,5-dihydroxybenzoate | 0.595 mmol, 100 mg | OC=1C=C(C(=O)OC)C=C(C1)O | C8H8O4
reactant | 4-(trifluoromethylsulfonyl)chlorobenzene | 1.189 mmol, 291 mg | FC(S(=O)(=O)C1=CC=C(C=C1)Cl)(F)F | C7H4ClF3O2S
reactant | potassium carbonate | 2.379 mmol, 330 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 3,5-bis-(4-trifluoromethanesulfonyl-phenoxy)-benzoic acid methyl ester | COC(C1=CC(=CC(=C1)OC1=CC=C(C=C1)S(=O)(=O)C(F)(F)F)OC1=CC=C(C=C1)S(=O)(=O)C(F)(F)F)=O | C22H14F6O8S2
